US08377970B2
1-phenylcyclobutanecarbonitrile
Sodium hydride (1.54 g, 64.1 mmol) dissolved in DMF (15 ml) and cooled to 0° C. Phenyl acetonitrile (3 g, 25.6 mmol) and 1,3-dibromopropane (5.2 g, 25.6 mmol) were dissolved in DMF (15 ml) and added to above mixture drop-wise at 0° C. This mixture was heated to rt and continued stirring for 2 h. Work up (H2O/Toluene) afforded the title compound (2.61 g) as crude, which was used in the next without further purification.

reactant | Sodium hydride | 64.1 mmol, 1.54 g | [H-].[Na+]
reactant | Phenyl acetonitrile | 25.6 mmol, 3 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | 1,3-dibromopropane | 25.6 mmol, 5.2 g | BrCCCBr | C3H6Br2
reactant | H2O Toluene | O.C1(=CC=CC=C1)C
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-phenylcyclobutanecarbonitrile | 2.61 g | C1(=CC=CC=C1)C1(CCC1)C#N | C11H11N
